US08729079B2
e: Ethyl 4-(4-((4-(tert-butoxycarbonyl)piperazin-1-yl)methyl)phenylamino)-2-(4-(methoxycarbonyl)phenyl)-6-methylpyrimidine-5-carboxylate
Ethyl 4-(4-((4-(tert-butoxycarbonyl)piperazin-1-yl)methyl)phenylamino)-2-chloro-6-methylpyrimidine-5-carboxylate (0.8 g, 1.63 mmol), K2CO3 (0.56 g, 4 mmol), Pd(PPh3)4 (0.28 g, 0.24 mmol) were dissolved in dioxane/water (20:1), 4-(methoxycarbonyl)phenylboronic acid (0.38 g, 2.1 mmol) was added the mixture was heated to 100° C. for 3 hours. The mixture was diluted with water and extracted with EtOAc. The organic layer was concentrated and purified by column chromatography over silica gel using 30% EtOAc/hexanes as eluent to give the desired product (0.7 g). 1H NMR (400 MHz, DMSO-d6): δ 9.88 (s, 1H), 8.43 (d, J=8.0 Hz, 2H), 8.10 (d, J=8.0 Hz, 2H), 7.68 (d, J=8.4 Hz, 2H), 7.35 (d, J=8.4 Hz, 2H), 4.39 (q, J=6.8 Hz, 2H), 3.89 (s, 3H), 3.49 (s, 2H), 2.68 (m, 4H), 2.50 (s, 3H), 2.33 (m, 4H), 1.91 (t, J=6.8 Hz, 3H), 1.39 (s, 9H); MS m/z 590.2 (M+1).

reactant | Ethyl 4-(4-((4-(tert-butoxycarbonyl)piperazin-1-yl)methyl)phenylamino)-2-chloro-6-methylpyrimidine-5-carboxylate | 1.63 mmol, 0.8 g | C(C)(C)(C)OC(=O)N1CCN(CC1)CC1=CC=C(C=C1)NC1=NC(=NC(=C1C(=O)OCC)C)Cl | C24H32ClN5O4
reactant | K2CO3 | 4 mmol, 0.56 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-(methoxycarbonyl)phenylboronic acid | 2.1 mmol, 0.38 g | COC(=O)C1=CC=C(C=C1)B(O)O | C8H9BO4
solvent | dioxane water | O1CCOCC1.O
solvent | water | O | H2O
catalyst | Pd(PPh3)4 | 0.24 mmol, 0.28 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Ethyl 4-(4-((4-(tert-butoxycarbonyl)piperazin-1-yl)methyl)phenylamino)-2-(4-(methoxycarbonyl)phenyl)-6-methylpyrimidine-5-carboxylate | 0.7 g | C(C)(C)(C)OC(=O)N1CCN(CC1)CC1=CC=C(C=C1)NC1=NC(=NC(=C1C(=O)OCC)C)C1=CC=C(C=C1)C(=O)OC | C32H39N5O6
